US07192950B2
2-(3,4-Dimethoxy-phenylsulfanyl)-ethylamine
To a cold (0° C.) solution of (3,4-dimethoxy-phenylsulfanyl)-acetonitrile (7.53 g, 36.0 mmol) in anhydrous THF (41 ml), was added portionwise NaBH4 (1.22 g, 32.0 mmol) and dropwise a solution of BF3.OEt2 (5.37 ml, 20.0 mmol) in anhydrous THF (13.4 ml) over 30 min. The resulting mixture was stirred at RT for 3 h under nitrogen. The mixture was concentrated in vacuo, the residue was dissolved in CH2Cl2 and washed with HCl 37%. The aqueous phase was neutralized with NaOH 30% and extracted with CH2Cl2. The combined organic phases were dried over anhydrous MgSO4, filtered and concentrated to give a crude oil. Flash chromatography (CH2Cl2/MeOH: 9/1) gave the title product (3.6 g, 46%).

reactant | (3,4-dimethoxy-phenylsulfanyl)-acetonitrile | 36.0 mmol, 7.53 g | COC=1C=C(C=CC1OC)SCC#N | C10H11NO2S
reactant | NaBH4 | 32.0 mmol, 1.22 g | [BH4-].[Na+]
reactant | BF3.OEt2 | 20.0 mmol, 5.37 ml | B(F)(F)F.CCOCC
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | THF | 41 ml | C1CCOC1 | C4H8O
solvent | THF | 13.4 ml | C1CCOC1 | C4H8O
product | 2-(3,4-Dimethoxy-phenylsulfanyl)-ethylamine | 3.6 g, 46% | COC=1C=C(C=CC1OC)SCCN | C10H15NO2S
